US04548932
To a mixture of 100 ml of ethyl acetate and 50 ml of water is added 1.5 g of 3(S)-amino-2,3,4,5-tetrahydro-1,5-benzoxazepine-4-one hydrochloride, and 1.5 ml of benzyloxycarbonyl chloride is added dropwise to the mixture at ice bath temperature with stirring. After stirring for 1 hour, the ethyl acetate layer separated, washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. To the residue is added ethyl ether and the deposited crystals are collected by filtration to give 2 g of 3(S)-benzyloxycarbonylamino-2,3,4,5-tetrahydro-1,5-benzoxazepine-4-one. This product is recrystallized from a mixture of ethyl acetate and ether to give colorless needles melting at 157°-159° C.

reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
reactant | 3(S)-amino-2,3,4,5-tetrahydro-1,5-benzoxazepine-4-one hydrochloride | 1.5 g | Cl.N[C@H]1COC2=C(NC1=O)C=CC=C2
reactant | benzyloxycarbonyl chloride | 1.5 ml | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | water | 50 ml | O | H2O
product | 3(S)-benzyloxycarbonylamino-2,3,4,5-tetrahydro-1,5-benzoxazepine-4-one | 2 g | C(C1=CC=CC=C1)OC(=O)N[C@H]1COC2=C(NC1=O)C=CC=C2 | C17H16N2O4
